US09145413B2
a. (2-Morpholin-4-yl-ethyl)-carbamic acid tert-butyl ester (Intermediate 45a)
4-(2-Aminoethyl)morpholine (5.00 g, 38.5 mmol) was added to a stirred mixture of di-tert-butyl dicarbonate (8.38 g, 38.5 mmol) and indium(III)chloride (85 mg, 0.39 mmol). This mixture was stirred for 1 min before being diluted with EtOAc (200 mL) and washed with water (×2). The organic layer was dried (MgSO4) and was evaporated in vacuo to give the title compound as a clear oil (8.14 g, 92%). 1H NMR (400 MHz, CDCl3): 1.45 (9H, s), 2.40-2.50 (6H, m), 3.23 (2H, q, J 5.9), 3.70 (4H, t, J 4.7), 4.96 (1H, br s).

reactant | 4-(2-Aminoethyl)morpholine | 38.5 mmol, 5.00 g | NCCN1CCOCC1 | C6H14N2O
reactant | di-tert-butyl dicarbonate | 38.5 mmol, 8.38 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
catalyst | indium(III)chloride | 0.39 mmol, 85 mg | [Cl-].[In+3].[Cl-].[Cl-]
product | (2-Morpholin-4-yl-ethyl)-carbamic acid tert-butyl ester | 8.14 g, 92% | C(C)(C)(C)OC(NCCN1CCOCC1)=O | C11H22N2O3
